US07491722B2
5-Acetyl-2-ethyl-6-phenyl-4-(pyrimidin-2-ylamino)pyridazin-3(2H)-one
To a stirred solution of 100 mg (0.348 mmol) of 5-acetyl-2-ethyl-4-nitro-6-phenylpyridazin-3(2H)-one (Dal Piaz, V et al, J. Med. Chem. 1997, 40, 1417) in 5 ml of ethanol, 430 mg (4.524 mmol) of 2-aminopyrimidine was added. The resulting mixture was stirred at 50° C. during five days and the final product was collected by filtration and washed with diethylether to yield the title compound (42 mg, 35.6% yield).

reactant | 5-acetyl-2-ethyl-4-nitro-6-phenylpyridazin-3(2H)-one | 0.348 mmol, 100 mg | C(C)(=O)C1=C(C(N(N=C1C1=CC=CC=C1)CC)=O)[N+](=O)[O-] | C14H13N3O4
reactant | 2-aminopyrimidine | 4.524 mmol, 430 mg | NC1=NC=CC=N1 | C4H5N3
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 5-Acetyl-2-ethyl-6-phenyl-4-(pyrimidin-2-ylamino)pyridazin-3(2H)-one | 42 mg, 35.6% yield | C(C)(=O)C1=C(C(N(N=C1C1=CC=CC=C1)CC)=O)NC1=NC=CC=N1 | C18H17N5O2
